US04062870
3,4-Epoxy-3,4-dihydro-2,2-dimethyl-2H-benzo[b]pyran (3.00g.) and sodium azide (1.23g.; an excess) were refluxed in dioxane (25 ml.) and water (5 ml.) mixture for 24 hours. Dilution with water and extraction via diethyl ether gave trans-4-azido-3,4-dihydro-2,2-dimethyl-2H-benzo[b]-pyran-3-ol (3.06g.) as needles from 60°-80° petroleum ether m.p. 70° - 71°. To a solution of the hydroxy azide (2.90g.) in acetone (50 ml.) containing concentrated hydrochloric acid (10 ml.) was added with stirring and in portions, zinc dust (10 g.). Stirring was continued until gas evolution ceased. The zinc was filtered and washed with acetone. The combined washings and filtrate were diluted with water and extracted with diethyl ether. Basification of the aqueous layer and isolation via diethyl ether gave trans-4-amino-3,4-dihydro-2,2-dimethyl-2H-benzo[b]pyran-3-ol (2.70 g.), re-crystallised from ethanol m.p. 138°. Treatment with anhydrous hydrochloric acid as in Example 1 yielded trans-4-amino-3,4-dihydro-2,2-dimethyl-2H-benzo[b]pyran-3-ol hydrochloride, m.p. 223°-225°.

reactant | 3,4-Epoxy-3,4-dihydro-2,2-dimethyl-2H-benzo[b]pyran | 3.00g | O1C2C1C1=C(OC2(C)C)C=CC=C1 | C11H12O2
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
reactant | water | 5 ml | O | H2O
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | trans-4-azido-3,4-dihydro-2,2-dimethyl-2H-benzo[b]-pyran-3-ol | 3.06g | N(=[N+]=[N-])[C@@H]1C2=C(OC([C@H]1O)(C)C)C=CC=C2 | C11H13N3O2
